US07368578B2
2-[(E)-2-(3-Benzyloxy-1-phenyl-1H-pyrazol-5-yl)ethenyl]pyridine (2.52 g), 5% palladium on carbon (3.0 g) and tetrahydrofuran (200 mL) were subjected to catalytic reduction under a hydrogen atmosphere and atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated to give 1-phenyl-5-[(E)-2-pyridin-2-ylethenyl]-1H-pyrazol-3-ol as colorless crystals (1.50 g, yield 80%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 167-168° C.

reactant | 2-[(E)-2-(3-Benzyloxy-1-phenyl-1H-pyrazol-5-yl)ethenyl]pyridine | 2.52 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)/C=C/C1=NC=CC=C1)C1=CC=CC=C1 | C23H19N3O
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-phenyl-5-[(E)-2-pyridin-2-ylethenyl]-1H-pyrazol-3-ol | 1.50 g, yield 80% | C1(=CC=CC=C1)N1N=C(C=C1\C=C\C1=NC=CC=C1)O | C16H13N3O
